US05693639
N-[4-(N,N-Dimethylaminosulfonyl)phenyl]-3,3,3-trifluoro-2-hydroxy-2-methylpropanamide.
To a cooled (-10° C.) solution of α-trifluoromethyl lactic acid (0.69 g) in dry N,N-dimethylacetamide (5 ml) was added thionyl chloride (0.33 ml) dropwise over 2 minutes. The mixture was stirred at -10° C. for 90 minutes, then treated successively with 4-pyrrolidinopyridine (13 mg), di-isopropylethylamine (0.76 ml), and 4-(N,N-dimethylaminosulfonyl)aniline (0.88 g). The reaction mixture was stirred at 22° C. for 48 hours, then diluted with water and extracted with ethyl acetate. The combined ethyl acetate extracts were washed with 1N HCl, brine, dried and the solvent evaporated. The crude product was purified by chromatography (12:1 CH2Cl2 : ethyl acetate) and recrystallised from methyl-t-butyl ether/hexane to give the title compound as a colourless crystalline solid (0.56 g); mp 139°-141° C.; MS: m/z=341(M+1); NMR (250 MHz): 1.60 (s,3), 2.58 (s,6), 7.58 (s,1), 7.69-7.73 (d,2), 8.03-8.06 (d,2). Analysis for C12H15F3N2O4S: Calculated: C, 42.35; H, 4.44; N, 8.23; Found: C, 42.21; H, 4.54; N, 8.15.

reactant | α-trifluoromethyl lactic acid | 0.69 g | FC(C(C(=O)O)(O)C)(F)F | C4H5F3O3
reactant | thionyl chloride | 0.33 ml | S(=O)(Cl)Cl | Cl2OS
reactant | di-isopropylethylamine | 0.76 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(N,N-dimethylaminosulfonyl)aniline | 0.88 g | CN(S(=O)(=O)C1=CC=C(N)C=C1)C | C8H12N2O2S
solvent | N,N-dimethylacetamide | 5 ml | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
catalyst | 4-pyrrolidinopyridine | 13 mg | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
product | N-[4-(N,N-Dimethylaminosulfonyl)phenyl]-3,3,3-trifluoro-2-hydroxy-2-methylpropanamide | 0.56 g | CN(S(=O)(=O)C1=CC=C(C=C1)NC(C(C(F)(F)F)(C)O)=O)C | C12H15F3N2O4S
